US04782173
0.5 mmoles 1-acetoxy-3-methylthiopropene, (Z: E ratio 43:57), and 2.5 mmoles ethanol were charged into a 71 cc stainless steel bomb equipped with a glass liner and a Teflon coated stir bar. Ten mole percent, based on 1-acetoxy-3-methylthiopropene, of a catalyst comprising bis(triphenylphosphine)dichloropalladium, (φ3P )2PdCl2, was added. Toluene was included as an internal standard. Five milliliters of tetrahydrofuran as a solvent were also included in the reaction system. The reaction mixture was charged under argon. The bomb was sealed and carbon monoxide at a pressure of 1000 psi (at room temperature) was charged to the bomb, and the bomb was heated to 100° C. and allowed to react for 44 hours with stirring. At the termination of the reaction, the reaction products were analyzed by gas chromatography and it was found that 2-acetoxy-4-(methylthio)butanoic acid, ethyl ester was produced in a yield of 10.5 percent, and that 2-acetoxy-4-(methylthio)thiobutanoic acid, methyl ester, was produced in a yield of 10.8 percent, based on the 1-acetoxy-3-methylthiopropene reactant charged. Note that each of the products is hydrolyzable to methionine hydroxy analog.

reactant | 1-acetoxy-3-methylthiopropene | 0.5 mmoles | C(C)(=O)OC=CCSC | C6H10O2S
reactant | ethanol | 2.5 mmoles | C(C)O | C2H6O
reactant | carbon monoxide | [C]=O | CO
reactant | 2-acetoxy-4-(methylthio)butanoic acid, ethyl ester | C(C)(=O)OC(C(=O)OCC)CCSC | C9H16O4S
solvent | tetrahydrofuran | Five milliliters | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)dichloropalladium | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-acetoxy-4-(methylthio)thiobutanoic acid, methyl ester | yield of 10.8 percent | C(C)(=O)OC(C(=S)OC)CCSC | C8H14O3S2
